US06982348B2
9) 6,6-dimethyl-6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethanol
To a solution of tert-butyl (6,6-dimethyl-6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethoxy)dimethylsilane (7.306 g, 23.08 mmol) in tetrahydrofuran (30 ml) was added a solution of 1.0 M tetrabutylammonium fluoride in tetrahydrofuran (27.7 ml, 27.7 mmol) at room temperature, and the mixture was stirred at room temperature for 15 min. The reaction solution was poured into water, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−3/1) to give the objective substance.

reactant | tert-butyl (6,6-dimethyl-6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethoxy)dimethylsilane | 23.08 mmol, 7.306 g | C(C)(C)(C)[Si](C)(C)OCC1=CC=CC2=C1C=CCC(C2)(C)C | C20H32OSi
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 27.7 mmol, 27.7 ml | O1CCCC1 | C4H8O
product | 6,6-dimethyl-6,7-dihydro-5H-benzo[a]cyclohepten-1-ylmethanol | CC1(CC2=C(C=CC1)C(=CC=C2)CO)C | C14H18O
